US04490392
A mixture of the α-(α-methyl-3,4-methylenedioxyphenethylimino)-B 2-chloroacetophenone solution obtained in paragraph (2), 1.73 g of sodium borohydride and 30 ml of ethanol is treated in the same manner as described in Example 1-(3), whereby α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-chlorobenzylalcohol [the mixture of two diastereoisomers] is obtained as a crude oil. Said benzylalcohol [i.e., the mixture of two diastereoisomers] is treated with ethanolic hydrogen chloride to convert it into its hydrochloride, and the hydrochloride is recrystallized from methanol. The crystalline precipitates are collected by filtration (the filtrate is hereinafter referred to as "mother liquor"). 5.0 g of α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-chlorobenzylalcohol hydrochloride [the diastereoisomer of M.p. 202°-203° C. (decomp.)] are thereby obtained.

reactant | α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-chlorobenzylalcohol | CC(CC1=CC2=C(C=C1)OCO2)NCC(C2=C(C=CC=C2)Cl)O | C18H20ClNO3
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrogen chloride | Cl | ClH
product | α-[(α-methyl-3,4-methylenedioxyphenethylamino)methyl]-2-chlorobenzylalcohol hydrochloride | 5.0 g | Cl.CC(CC1=CC2=C(C=C1)OCO2)NCC(C2=C(C=CC=C2)Cl)O | InChI=1S/C18H20ClNO3.ClH/c1-12(8-13-6-7-17-18(9-13)23-11-22-17)20-10-16(21)14-4-2-3-5-15(14)19;/h2-7,9,12,16,20-21H,8,10-11H2,1H3;1H
